US07612114B2
6-{2-{{2-[4-(2-Azepan-1-ylethoxy)phenyl]ethyl}cyclopropylmethylamino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 4-{2-{cyclopropylmethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amino}ethyl}phenol and 1-(2-chloroethyl)azepane hydrochloride according to an analogous synthetic method to Preparation Example 40, {2-[4-(2-azepan-1-ylethoxy)phenyl]ethyl}cyclopropylmethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (392 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (188 mg).

reactant | 4-{2-{cyclopropylmethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amino}ethyl}phenol | C1(CC1)CN(CCC1=CC=C(C=C1)O)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C30H35NO3
reactant | 1-(2-chloroethyl)azepane hydrochloride | Cl.ClCCN1CCCCCC1
reactant | {2-[4-(2-azepan-1-ylethoxy)phenyl]ethyl}cyclopropylmethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 392 mg | N1(CCCCCC1)CCOC1=CC=C(C=C1)CCN(C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC)CC1CC1 | C38H50N2O3
product | 6-{2-{{2-[4-(2-Azepan-1-ylethoxy)phenyl]ethyl}cyclopropylmethylamino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 188 mg | N1(CCCCCC1)CCOC1=CC=C(C=C1)CCN(C1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O)CC1CC1 | C36H46N2O3
